US08455646B2
Preparation of 2-bromo-1-(2-methyl-thiazol-5-yl)-ethanone (I228)
To a solution of 2-methylthiazole-4-carbonyl chloride (0.34 g, 2.10 mmol) in dry MeCN (8 mL) cooled at 0° C., under nitrogen atmosphere, is slowly added (diazomethyl)trimethylsilane (3.14 ml, 6.29 mmol, 2.0M in hexane). The reaction is stirred at RT for 15 h (UPLC-MS monitoring: complete conversion). The reaction is cooled at 0° C. and 48% hydrobromic acid (1.23 mL, 7.34 mmol) is added dropwise. The reaction is stirred at RT for 3 hour. Then EtOAc and water are added, the organic layer is separated and the aqueous phase is neutralized with 1M NaOH and extracted with EtOAc. The combined organic layers are dried over Na2SO4, filtered and evaporated to dryness to obtain compound I228 as a dark brown gummy solid (400 mg, 87% yield).

reactant | 2-methylthiazole-4-carbonyl chloride | 2.10 mmol, 0.34 g | CC=1SC=C(N1)C(=O)Cl | C5H4ClNOS
reactant | (diazomethyl)trimethylsilane | 6.29 mmol, 2.0M, 3.14 ml | [N+](=[N-])=C[Si](C)(C)C | C4H10N2Si
reactant | hydrobromic acid | 7.34 mmol, 1.23 mL | Br | BrH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeCN | 8 mL | CC#N | C2H3N
solvent | water | O | H2O
product | 2-bromo-1-(2-methyl-thiazol-5-yl)-ethanone | 400 mg, 87% yield | BrCC(=O)C1=CN=C(S1)C | C6H6BrNOS
